### PR TITLE
Covariance lemma for exponentiating by (- = 0)

### LINKED ISSUE #192: The family (i = 0) → X is covariant for a covariant family X
And more generally that covariant families are closed under exponentiating by contravariant families.

This should follow from the fact that left-anodyne maps are closed under base change by right-fibrations

### PR DESCRIPTION
**Pull request by samtoth**
- [x] Proves lemma #192 (with brute force as opposed to the method via left anodyne maps being stable under base change by right fibrations).
 - [x] Proves more generally that a covariant family exponentiated by any contravariant family is covariant
 - [x] Updates Spaces to use this proof

Also makes tr-cov-hom and related lemmas opaque to improve goal display (and maybe performance)

extracted from #206

### CODE REVIEW

File: src/Algebra/Order/Monotone.lagda.tree [hunk 1]
```diff
@@ -51,3 +50,28 @@ module _
...
+  (g : A → B)
+  (let module A = Poset pA)
+  (let module B = Poset pB)
+  (let module C = Poset pC)
+  where
+
+  ∘-is-monotone
+    : is-monotone pB pC f → is-monotone pA pB g
+    → is-monotone pA pC (f ∘ g)
+  ∘-is-monotone fm gm = fm ∘ gm
```
Comment (fredrik-bakke) [inline src/Algebra/Order/Monotone.lagda.tree]:
```suggestion
module _
  {𝓤 𝓤' 𝓥 𝓥' 𝓦 𝓦'}
  {A : Type 𝓤} {B : Type 𝓥} {C : Type 𝓦}
  (pA : Poset 𝓤' A) (pB : Poset 𝓥' B) (pC : Poset 𝓦' C)
  {g : B → C} {f : A → B}
  where

  ∘-is-monotone
    : is-monotone pB pC g
    → is-monotone pA pB f
    → is-monotone pA pC (g ∘ f)
  ∘-is-monotone gm fm = gm ∘ fm
```

File: src/Foundations/DependentIdentity.lagda.tree [hunk 2]
```diff
@@ -111,6 +111,13 @@ Idᵈ-const-coe
       (t : f x ＝ l)
     → tr (λ z → f z ＝ l) p t ＝ ap f (sym p) ∙ t
 Idᵈ-const-coe f refl t = refl
+
+adjust-idᵈ
+  : ∀ {𝓤} {A B : Type 𝓤}
+      {P Q : A ＝ B} (_ : P ＝ Q)
+      {a : A} {b : B}
+    → a ＝[ P ] b → a ＝[ Q ] b
```
Comment (fredrik-bakke) [inline src/Foundations/DependentIdentity.lagda.tree]:
```suggestion
      {P Q : A ＝ B} 
    → (P ＝ Q)
    → {a : A} {b : B}
    → a ＝[ P ] b → a ＝[ Q ] b
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 3]
```diff
@@ -9,7 +9,7 @@ open import Foundations.Universes
 open import Algebra.Lattice
 
 module Synthetic.Categories.CovariantClosure
-  {𝓘} (Δ¹ : Type 𝓘) (I : Lattice Δ¹)
+  {𝓘} (Δ¹ : Type 𝓘) (I : Lattice Δ¹) (I-distr : is-distributive I)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree:12]: 🤯🤯🤯🤯

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree:1]: After fixing the definition of lattices I expect this entire file can become just a reexport wrapper, btw

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 4]
```diff
@@ -181,6 +181,51 @@ opaque
 }
 }
 
+\subtree[tot-0556]{
+\title{Contravariance at #{i = 0}}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
\title{Contravariance of the family #{i \mapto (i = 0)}}
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 5]
```diff
@@ -181,6 +181,51 @@ opaque
...
+\date{2026-06-22}
+\taxon{Lemma}
+
+\p{Assuming [quasicoherence](), or more specifically that every endomap on #{Δ^1} is
+monotone, the family #{- = 0} is contravariant }
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
monotone, the family #{(-) = 0} is contravariant.}
```

File: src/Foundations/DependentIdentity.lagda.tree [hunk 6]
```diff
@@ -111,6 +111,15 @@ Idᵈ-const-coe
...
 Idᵈ-const-coe f refl t = refl
+
+adjust-idᵈ
+  : ∀ {𝓤} {A B : Type 𝓤}
+      {P Q : A ＝ B}
+    → (P ＝ Q)
+    → {a : A} {b : B}
+    → a ＝[ P ] b
+    → a ＝[ Q ] b
+adjust-idᵈ refl = id
```
Comment (fredrik-bakke) [inline src/Foundations/DependentIdentity.lagda.tree]:
```suggestion
adjust-Idᵈ
  : ∀ {𝓤} {A B : Type 𝓤}
      {P Q : A ＝ B}
    → (P ＝ Q)
    → {a : A} {b : B}
    → a ＝[ P ] b
    → a ＝[ Q ] b
adjust-Idᵈ refl = id
```
lowercase `id` is for the identity function.

File: src/Synthetic/Categories/WalkingHom.lagda.tree [hunk 7]
```diff
@@ -0,0 +1,89 @@
...
+open import Foundations.Prelude
+
+open import Modalities.Instances.Truncation
+
+open import Synthetic.Hom Δ¹ i0 i1
+}
+}
+
+\subtree[tot-X56P]{
+\title{Morphisms in #{Δ^1}}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/WalkingHom.lagda.tree]:
```suggestion
\title{Morphisms in #{Δ¹}}
```

#106

Comment (fredrik-bakke) [reply src/Synthetic/Categories/WalkingHom.lagda.tree]: In this case it renders fine as I propose it.

File: src/Synthetic/Categories/WalkingHom.lagda.tree [hunk 8]
```diff
@@ -0,0 +1,89 @@
...
+
+\agda{
+0≤1 : Hom Δ¹ i0 i1
+0≤1 .Homᵈ.hom = id
+0≤1 .Homᵈ.hom0 = refl
+0≤1 .Homᵈ.hom1 = refl
+}
+
+\p{More generally, for any #{i \le j}, we may construct a morphism #{\Hom(i,j)}. This
+morphism is the identity when #{i = j} and agrees with the canonical morphism when
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/WalkingHom.lagda.tree]:
```suggestion
morphism is the identity/constant morphism when #{i = j}, and agrees with the canonical morphism when
```

File: src/Synthetic/Categories/WalkingHom.lagda.tree [hunk 9]
```diff
@@ -0,0 +1,89 @@
...
+0≤i i .Homᵈ.hom0 = 0-init
+0≤i i .Homᵈ.hom1 = ∧-comm ∙ 1-top
+
+0≤i-at-0 : 0≤i i0 ＝ idH i0
+0≤i-at-0 = Hom-ext→ ((λ a → ∧-comm ∙ 0-init) , prop! , prop!)
+}
+}
+
+\subtree[tot-AAEE]{
+\title{Characterising all morphisms of #{Δ^1}}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/WalkingHom.lagda.tree]:
```suggestion
\title{Characterising all morphisms of #{Δ¹}}
```

File: src/Synthetic/Categories/WalkingHom.lagda.tree [hunk 10]
```diff
@@ -0,0 +1,89 @@
...
+\taxon{Lemma}
+
+\p{Under the assumption that #{I[x]} is [quasicoherent](stt-00TA), the [maps](tot-X56P)
+#{i \le j \to \Hom(i,j)} are equivalences.}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/WalkingHom.lagda.tree]:
```suggestion
\p{Under the assumption that #{I[x]} is [quasicoherent](stt-00TA), the [map](tot-X56P)
#{(i \le j) \to \Hom(i,j)} is an equivalence for all #{i} and #{j}.}
```

File: src/Synthetic/Categories/WalkingHom.lagda.tree [hunk 11]
```diff
@@ -0,0 +1,89 @@
+\title{The walking morphism}
+\taxon{Module}
+\author{samueltoth}
+\import{stt-macros}
+
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/WalkingHom.lagda.tree:8]: A paragraph here about what this file is supposed to be about would be good.

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 12]
```diff
@@ -178,14 +182,53 @@ opaque
...
+\subtree[tot-0556]{
+\title{Contravariance of the family #{i \mapsto (i = 0)}}
+\date{2026-06-22}
+\taxon{Example}
+
+\p{Assuming [quasicoherence](stt-00TA), or more specifically that every endomap on #{Δ^1} is
+monotone, the family #{i \mapsto (i = 0)} is contravariant.}
+
+\proof{
+\p{We want to show the family #{{-} = 0} is orthogonal to #{\{1\} \to \Delta^1}. Since
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
\p{We want to show the family #{({-}) = 0} is orthogonal to the point inclusion #{\{1\} \to \Delta^1}. Since
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 13]
```diff
@@ -178,14 +182,53 @@ opaque
...
+    = Extᵈ-Subtype-is-prop
+        (point i1)
+        (mk-subtype {family = _＝ i0} λ _ _ _ → prop!)
+        F _
+
+  ●-is-contravariant
+    : ∀ {𝓤} {A : Type 𝓤} (f : A → Δ¹)
+      → is-contravariant ((_＝ i0) ∘ f)
+  ●-is-contravariant f
+    = contravariant-base-change {P = _＝ i0} f
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
    = contravariant-base-change {P = (_＝ i0)} f
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 14]
```diff
@@ -178,14 +182,53 @@ opaque
...
+}
 
 \subtree[stt-00OM]{
 \title{Exponentiating covariant families}
 \taxon{Lemma}
 
 \p{We show that given a [contravariant type family](stt-00OD) #{F},
 and a [covariant type family](stt-00AY) #{G}, the type family given by
-#{x \mapsto F(x) \to G(x)} is also covariant.}
+#{x \mapsto F(x) \to G(x)} is also covariant. }
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
#{x \mapsto F(x) \to G(x)} is also covariant.}
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 15]
```diff
@@ -178,14 +182,53 @@ opaque
...
+\date{2026-06-22}
+\taxon{Example}
+
+\p{Assuming [quasicoherence](stt-00TA), or more specifically that every endomap on #{Δ^1} is
+monotone, the family #{i \mapsto (i = 0)} is contravariant.}
+
+\proof{
+\p{We want to show the family #{{-} = 0} is orthogonal to #{\{1\} \to \Delta^1}. Since
+this is a family of propositions it suffices to construct some lift. Then for
+each #{\sigma : Δ^1 \to Δ^1} such that #{\sigma(1) = 0} we need to show that
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
this is a family of propositions it suffices to construct some lift. In other words, for
each #{\sigma : Δ^1 \to Δ^1} such that #{\sigma(1) = 0} we need to show that
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 16]
```diff
@@ -207,31 +250,57 @@ solutions to the right lifting problem.}
...
+\p{
+We may see that the leftmost map of the second of the [above diagrams](stt-00OM) is
+obtained as the pullback of #{\{0\} \to \Delta^1} by the projection #{\Sigma_{i}
+F_{f(i)} \to \Delta^1}. Hence we have a lifting problem where the left map is a
+pullback of a left anodyne map by a right fibration and hence is a left anodyne
+map. Since the right family is covariant by assumption, this means solutions to the
+lifting problem exist uniquely.}
 
 \remark{
 \p{We have not yet formalised the fact that left-anodyne maps are stable under
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
\p{We have not yet formalised the fact that left anodyne maps are stable under
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 17]
```diff
@@ -207,31 +250,57 @@ solutions to the right lifting problem.}
...
+#{\Hom_{Gσ}^{0 \le i}(x(0, F^*(p)), x(i,p))} for all #{i : \Delta^1} and
+#{p : F\sigma(i)}. The morphism can be given by #{j \mapsto x(i \land j, F^*(p))}, and
+this can be shown to have the correct boundary trivially at #{0}, and at #{1} by again
+applying uniqueness of transport with a similarly constructed dependent morphism.
+}
+}
+}
 
 \agda{
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree:419]:
```suggestion
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 18]
```diff
@@ -255,8 +324,12 @@ module _
     transposed-left-map-is-pb .snd .snd = id-is-equiv
 
     transposed-left-map-is-left-anodyne
-      : is-contravariant F → is-left-anodyne (transposed-left-map σ)
-    transposed-left-map-is-left-anodyne rfib
+      : (base-change-left-anodyne
+          : ∀ {𝓤 𝓥 𝓦} {A : Type 𝓤} {B : Type 𝓥} (f : B → A) {C : Type 𝓦}
+              (p : C → A) → is-left-anodyne p → is-right-fibration f
+            → is-left-anodyne (base-change-arrow f p))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
          : ∀ {𝓤 𝓥 𝓦} {A : Type 𝓤} {B : Type 𝓥} {C : Type 𝓦}
              (f : B → A) (p : C → A) 
            → is-left-anodyne p 
            → is-right-fibration f
            → is-left-anodyne (base-change-arrow f p))
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 19]
```diff
@@ -265,18 +338,169 @@ module _
...
+      : ∀ (F-contrav : is-contravariant F) (G-cov : is-covariant G)
+        → is-equiv (precomp-Π {B = Σ[ i ∶ Δ¹ ] F (σ i)} (G ∘ σ ∘ fst) (λ p → (i0 , p)))
+    cov^contrav-is-covariant-lemma Fc Gc = is-equiv←qinv qinv where
+      Gσ = G ∘ σ
+      Gσ-cov = covariant-base-change {P = G} σ Gc
+      Fσ = F ∘ σ
+      Fσ-contrav = contravariant-base-change {P = F} σ Fc
+
+      connection
+        : ∀ i (p : F (σ i))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
        : ∀ (i : Δ¹) (p : F (σ i))
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 20]
```diff
@@ -265,18 +338,169 @@ module _
...
+        lemma3 = Σ-path→
+          ( path
+          , tr∘tr-contrav Fσ Fσ-contrav path (0≤i i) p
+          ∙ ap (λ f → tr-contrav-hom Fσ-contrav f p)
+               (Hom-ext→
+                 ( (λ j → ap₂ _∧_
+                              (≤-antisym
+                                (∨-≤-introl auto!)
+                                (∨-UP (auto! , (∧-≤-eliml auto!))))
+                              (sym (∧-∨-abs')))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
                 ( (λ j 
                    → ap₂ 
                        (_∧_)
                        (≤-antisym
                          (∨-≤-introl auto!)
                          (∨-UP (auto! , (∧-≤-eliml auto!))))
                        (sym (∧-∨-abs')))
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 21]
```diff
@@ -265,18 +338,169 @@ module _
...
+                              , carrier-is-set _ _ _ _))
+                            (idH p)))))
+
+        lemma2 : a (i , p)
+               ＝[ ap (Gσ ∘ fst) lemma3 ]
+                 a ( i1 ∧ i
+                   , tr-contrav-hom {P = Fσ} Fσ-contrav (Δ¹-hom←≤ (∧-≤-elimr ≤-refl)) p)
+        lemma2 = apᶠ a lemma3
+
+        lemma1 : a (i , p)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: the numbering of these lemmas are in the wrong order. Also, you're aligning text wrt. names here, which I thought we had agreed is bad practice

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 22]
```diff
@@ -265,18 +338,169 @@ module _
...
+               ＝[ ap Gσ (sym (∧-comm ∙ 1-top)) ]
+                 a ( i1 ∧ i
+                   , tr-contrav-hom {P = Fσ} Fσ-contrav (Δ¹-hom←≤ (∧-≤-elimr ≤-refl)) p)
+        lemma1 = adjust-idᵈ (ap-∘ Gσ fst lemma3 ∙ ap (ap Gσ) Σ-path-ap-fst) lemma2
+
+      qinv : quasi-inv (precomp-Π (G ∘ σ ∘ fst) (λ p → i0 , p))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
      qinv : quasi-inv (precomp-Π (G ∘ σ ∘ fst) (i0 ,_))
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 23]
```diff
@@ -265,18 +338,169 @@ module _
...
+      qinv .fst x (i , p) = tr-cov-hom Gσ-cov (0≤i i)
+                               (x (tr-contrav-hom Fσ-contrav (0≤i i) p))
+      qinv .snd .fst x = funext→
+        (λ where (i , p) → tr-cov-hom-unique Gσ Gσ-cov (0≤i i)
+                             (x (i0 , tr-contrav-hom Fσ-contrav (0≤i i) p))
+                             (x (i , p))
+                             (connection i p x))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
        (λ (i , p) 
         → tr-cov-hom-unique Gσ Gσ-cov (0≤i i)
             (x (i0 , tr-contrav-hom Fσ-contrav (0≤i i) p))
             (x (i , p))
             (connection i p x))
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 24]
```diff
@@ -265,18 +338,169 @@ module _
...
     : is-contravariant F → is-covariant G → is-covariant G^F
-  cov^contrav-is-covariant Fctr Gcov
+  cov^contrav-is-covariant Fc Gc = is-covariant←has-unique-extensions G^F
+    (λ {(mk-afmap σ h)
+         → is-single←equiv-to-single
+             (  fibre-precomp-Π≃Ext (G ∘ σ ∘ fst) (i0 ,_) (h tt)
+             ∙e transpose-ext-exponentials σ (h tt) e⁻¹)
+             (has-singleton-fibres←is-equiv
+               (cov^contrav-is-covariant-lemma σ Fc Gc)
+               (h tt))})
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: why are you mixing between using `λ {...}` and `λ where`? Please be consistent in your choice. Personally I prefer the latter

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 25]
```diff
@@ -265,18 +338,169 @@ module _
...
+                 a (i0 ∧ i
+                   , tr-contrav-hom {P = Fσ} Fσ-contrav (Δ¹-hom←≤ (∧-≤-elimr ≤-refl)) p)
+        lemma1 = adjust-idᵈ (ap-∘ Gσ fst lemma3 ∙ ap (ap Gσ) Σ-path-ap-fst) lemma2
+
+      connection i p a .Homᵈ.hom1 = sym lemma1 where
+
+        lemma3 : Id (Σ Δ¹ Fσ)
+                    (i , p)
+                    ( i1 ∧ i
+                    , tr-contrav-hom {P = Fσ} Fσ-contrav (Δ¹-hom←≤ (∧-≤-elimr ≤-refl)) p)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: aligns code wrt names

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 26]
```diff
@@ -265,18 +338,169 @@ module _
...
+                                (∨-≤-introl auto!)
+                                (∨-UP (auto! , (∧-≤-eliml auto!))))
+                              (sym (∧-∨-abs')))
+                 , carrier-is-set _ _ _ _
+                 , carrier-is-set _ _ _ _)))
+
+        lemma2 : a (i0 , tr-contrav-hom Fσ-contrav (0≤i i) p)
+               ＝[ ap (Gσ ∘ fst) lemma3 ]
+                 a (i0 ∧ i
+                   , tr-contrav-hom {P = Fσ} Fσ-contrav (Δ¹-hom←≤ (∧-≤-elimr ≤-refl)) p)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: aligning code wrt. names here

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 27]
```diff
@@ -265,18 +338,169 @@ module _
...
+        lemma2 = apᶠ a lemma3
+
+        lemma1 : a (i0 , tr-contrav-hom Fσ-contrav (0≤i i) p)
+               ＝[ ap Gσ (sym 0-init) ]
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: aligning code wrt. names here

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 28]
```diff
@@ -265,18 +338,169 @@ module _
...
 }
+
+\subtree[tot-0AGU]{
+\taxon{Example}
+
+\p{For any #{f : A \to Δ^1} and covariant family #{F}, the type family
+#{(a \mapsto (f(a) = 0) \to F(a))} is covariant.}
+
+\agda{
+module _ (phoa : Δ¹-endos-are-mono) where
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: Since this isn't Phoa's principle I think it is bad practice to name it that. 
```suggestion
module _ (Δ¹-mono : Δ¹-endos-are-mono) where
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 29]
```diff
@@ -265,18 +338,169 @@ module _
...
+                                       (∧-UP
+                                         ( ∨-≤-intror (∧-UP (1-top , ∧-idem))
+                                         , ∨-≤-intror ≤-refl))
+                                       (∧-≤-elimr
+                                         (∨-UP
+                                           ( (∧-≤-elimr ≤-refl)
+                                           , ≤-refl))))
+                              , carrier-is-set _ _ _ _
+                              , carrier-is-set _ _ _ _))
+                            (idH p)))))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
               (sym 
                 (tr∘tr-contrav Fσ Fσ-contrav (∧-comm ∙ 1-top) _ p
                 ∙ tr-contrav-hom-unique
                     Fσ Fσ-contrav
                     (adjust-hom (∧-comm ∙ 1-top) refl (Δ¹-hom←≤ (∧-≤-elimr ≤-refl)))
                     p p
                     (tr (λ f → Hom-over f p p)
                         {a = idH i}
                         {b = (adjust-hom (∧-comm ∙ 1-top) refl
                                          (Δ¹-hom←≤ (∧-≤-elimr ≤-refl)))}
                         (Hom-ext→
                           ((λ j → ≤-antisym
                                    (∧-UP
                                      ( ∨-≤-intror (∧-UP (1-top , ∧-idem))
                                      , ∨-≤-intror ≤-refl))
                                    (∧-≤-elimr
                                      (∨-UP
                                        ( (∧-≤-elimr ≤-refl)
                                        , ≤-refl))))
                           , carrier-is-set _ _ _ _
                           , carrier-is-set _ _ _ _))
                         (idH p)))))
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 30]
```diff
@@ -265,18 +338,169 @@ module _
           (base-change-left-anodyne
                 (fst: (F ∘ σ)) (point i0) (is-self-anodyne (point i0))
                 (is-right-fibration←is-contravariant (F ∘ σ) (rfib ∘ (σ ∘_))))
+}
+
+\agda{
+    cov^contrav-is-covariant-lemma
+      : ∀ (F-contrav : is-contravariant F) (G-cov : is-covariant G)
+        → is-equiv (precomp-Π {B = Σ[ i ∶ Δ¹ ] F (σ i)} (G ∘ σ ∘ fst) (λ p → (i0 , p)))
+    cov^contrav-is-covariant-lemma Fc Gc = is-equiv←qinv qinv where
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: this proof is very messy...

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 31]
```diff
@@ -265,18 +338,169 @@ module _
           (base-change-left-anodyne
                 (fst: (F ∘ σ)) (point i0) (is-self-anodyne (point i0))
                 (is-right-fibration←is-contravariant (F ∘ σ) (rfib ∘ (σ ∘_))))
+}
+
+\agda{
+    cov^contrav-is-covariant-lemma
+      : ∀ (F-contrav : is-contravariant F) (G-cov : is-covariant G)
+        → is-equiv (precomp-Π {B = Σ[ i ∶ Δ¹ ] F (σ i)} (G ∘ σ ∘ fst) (λ p → (i0 , p)))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
        → is-equiv (precomp-Π {B = Σ[ i ∶ Δ¹ ] F (σ i)} (G ∘ σ ∘ fst) (i0 ,_))
```

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 32]
```diff
@@ -265,18 +338,169 @@ module _
...
+      qinv .fst x (i , p) = tr-cov-hom Gσ-cov (0≤i i)
+                               (x (tr-contrav-hom Fσ-contrav (0≤i i) p))
+      qinv .snd .fst x = funext→
+        (λ where (i , p) → tr-cov-hom-unique Gσ Gσ-cov (0≤i i)
+                             (x (i0 , tr-contrav-hom Fσ-contrav (0≤i i) p))
+                             (x (i , p))
+                             (connection i p x))
+      qinv .snd .snd x = funext→
+        (λ p → tr-cov-idH~ Gσ Gσ-cov _ 0≤i-at-0 (x (tr-contrav-hom Fσ-contrav (0≤i i0) p))
+             ∙ ap x (tr-contrav-idH~ Fσ Fσ-contrav _ 0≤i-at-0 p))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]:
```suggestion
        (λ p 
         → tr-cov-idH~ Gσ Gσ-cov _ 0≤i-at-0 (x (tr-contrav-hom Fσ-contrav (0≤i i0) p))
         ∙ ap x (tr-contrav-idH~ Fσ Fσ-contrav _ 0≤i-at-0 p))
```

File: src/Synthetic/Categories/CovariantFamilies.lagda.tree [hunk 33]
```diff
@@ -499,63 +506,33 @@ module _ {𝓤} (B : Δ¹ → Type 𝓤) (bc : is-covariant B) where
...
-  help
-    : ∀ {x y} (f : Hom _ x y) x'
-      → Hom-over f (α x x') (α y (tr-cov-hom Fc f x'))
-  help (mk-hom f refl refl) x'
-    = mk-hom (λ i → α (f i) ((Fc f x') .centre .snd .Homᵈ.hom i))
-             (ap (α (f i0)) ((Fc f x') .centre .snd .Homᵈ.hom0))
-             (ap (α (f i1)) ((Fc f x') .centre .snd .Homᵈ.hom1))
+opaque
+  unfolding tr-cov-hom
+  tr-naturality
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantFamilies.lagda.tree]: This is a bad name. It doesn't tell us what sort of transport we're dealing with.

```suggestion
  tr-cov-naturality
```

File: src/Synthetic/Categories/CovariantFamilies.lagda.tree [hunk 34]
```diff
@@ -499,63 +506,33 @@ module _ {𝓤} (B : Δ¹ → Type 𝓤) (bc : is-covariant B) where
...
+        (Gc : is-covariant G)
+        (α : ∀ a → F a → G a)
+        {x y} (f : Hom A x y)
+      → tr-cov-hom Gc f ∘ α x ~ α y ∘ tr-cov-hom Fc f
+  tr-naturality Fc Gc α f x'
+    = ap fst
+        (is-covariant-hom←is-covariant _ Gc f (α _ x') .central
+          ( α _ (tr-cov-hom Fc f x')
+          , help f x')) where
+    help
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantFamilies.lagda.tree]: Petition to make our lemma naming convention go by the list
```text
help
please
help-me
oh-god
...
```

Comment (fredrik-bakke) [reply src/Synthetic/Categories/CovariantFamilies.lagda.tree]: In all seriousness, `helper` might be a better name to use in general because it's not an imperative and doesn't have the same strange reading.

File: src/Synthetic/Categories/Spaces.lagda.tree [hunk 35]
```diff
@@ -22,13 +22,16 @@ open import Modalities.Cohesion.Connectivity
...
+import Synthetic.Quasicoherence
 }
 
 \agda{
 module Synthetic.Categories.Spaces
   {@♭ 𝓘} (@♭ Δ¹ : Type 𝓘) (@♭ I : Lattice Δ¹) (@♭ I-distr : is-distributive I)
   (open Lattice I renaming (0l to i0; 1l to i1))
   (open Synthetic.Cubes Δ¹ i0 i1)
+  (open Synthetic.Quasicoherence Δ¹ I I-distr)
+  (@♭ qc : SQCP)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/Spaces.lagda.tree]: can be replaced by endos-are-mono

File: src/Synthetic/Categories/Yoneda.lagda.tree [hunk 36]
```diff
@@ -61,12 +61,17 @@ module _ {𝓤 𝓥} {A : Type 𝓤} {P : A → Type 𝓥} {a : A} where
...
+                               P Pc
+                               (ai a' .centre) (x' a) (x' a')
+                               (ap-hom-over x' (ai a' .centre)))
+    , λ a' → tr-cov-hom-unique
+               P Pc
+               (ai a .centre) a' a'
+               (tr
+                 (λ p → Hom-over p a' a')
+                 (sym (ai a .central (idH a)))
+                 (idH _)) )
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/Yoneda.lagda.tree]: aligns wrt. names again

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree [hunk 37]
```diff
@@ -345,23 +347,153 @@ tr-contrav-id
...
+Hom-contrav'≃
+  : ∀ {𝓤 𝓥} {A : Type 𝓤} (P : A → Type 𝓥) (contrav : is-contravariant P)
+      {x y} (f : Hom A x y) x' y'
+    → (tr-contrav-hom {P = P} contrav f y' ＝ x') ≃ (Hom-over f x' y')
+Hom-contrav'≃  P Pc f x' y'
+  = mk≃ (Hom-contrav' P Pc f x' y') (Hom-contrav'-is-equiv P Pc f x' y')
+
+tr-contrav-hom-unique
+  : ∀ {𝓤 𝓥} {A : Type 𝓤} (P : A → Type 𝓥) (contrav : is-contravariant P)
+      {x y} (f : Hom A x y) x' y'
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree]: this should go in a common anonymous module

File: src/Synthetic/Categories/ContravariantFamilies.lagda.tree [hunk 38]
```diff
@@ -345,23 +347,153 @@ tr-contrav-id
...
+        (contrav : is-contravariant P) {x y z} (g : Hom A y z) (f : Hom A x y)
+        (z' : P z)
+      → tr-contrav-hom contrav (g ∘[ Apc ] f) z'
+      ＝ tr-contrav-hom contrav f (tr-contrav-hom contrav g z')
+  tr-contrav-∘ apc P contrav g f z'
+    = ap fst
+        (is-contravariant-hom←is-contravariant contrav (g ∘[ apc ] f) z' .central
+          ( tr-contrav-hom contrav f (tr-contrav-hom contrav g z')
+          , Compᵈ apc P (is-inner-family←is-contravariant contrav) g f
+                  (tr-contrav-over contrav g _) (tr-contrav-over contrav f _)))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/ContravariantFamilies.lagda.tree:376]:
```suggestion
  tr-contrav-∘
    : ∀ {𝓤 𝓥} {A : Type 𝓤} (𝐴 : is-segal A) (P : A → Type 𝓥)
        (contrav : is-contravariant P) {x y z : A} (g : Hom A y z) (f : Hom A x y)
        (z' : P z)
      → tr-contrav-hom contrav (g ∘[ 𝐴 ] f) z'
      ＝ tr-contrav-hom contrav f (tr-contrav-hom contrav g z')
  tr-contrav-∘ 𝐴 P contrav g f z'
    = ap fst
        (is-contravariant-hom←is-contravariant contrav (g ∘[ 𝐴 ] f) z' .central
          ( tr-contrav-hom contrav f (tr-contrav-hom contrav g z')
          , Compᵈ 𝐴 P (is-inner-family←is-contravariant contrav) g f
                  (tr-contrav-over contrav g _) (tr-contrav-over contrav f _)))
```

**Review by fredrik-bakke — CHANGES_REQUESTED** [review]
One thing I notice that you're doing consistently here is prioritising shorter vertical space over 
shorter horizontal space in your proofs. There are many reasons to have the opposite priority:

1. Mobile phones are long and not wide
2. The current approach adds excessive indentation which makes the code less uniform, making it more difficult to discern where "the information" in the proofs is hiding at a glance.
3. The shortcuts you take to compress *vertical space are not amenable to refactoring.

For these reasons I'm asking you to change the way you format your proofs in this regard.

File: src/Synthetic/Categories/CovariantClosure.lagda.tree (hunk 24 above)
Comment (samtoth) [reply src/Synthetic/Categories/CovariantClosure.lagda.tree]: The issue with `where`, is that you need to place the `→` to the right of the where keyword. So I think going forward I will try and prefer `λ {...}`

Comment (fredrik-bakke) [reply src/Synthetic/Categories/CovariantClosure.lagda.tree]: yeah, it's a bit clunky that one. I think we can make `λ {...}` work in a way that looks nice with this library.

File: src/Synthetic/Categories/CovariantClosure.lagda.tree (hunk 30 above)
Comment (samtoth) [reply src/Synthetic/Categories/CovariantClosure.lagda.tree]: Yes I agree. I've tried to improve it a little – let me know what you think. I wasn't able to make the proof itself much nicer, but I have organised the trees a little better, and hidden the ugliest bit away in a `closedScope` section

**Comment by fredrik-bakke** [comment]
This is an aside, but the `help` vs `helper` discussion made me wonder if we should shorten `is-single` to `is-singl` too. I find the former to be such a weird abbreviation.

File: src/Synthetic/Categories/CovariantClosure.lagda.tree (hunk 30 above)
Comment (samtoth) [reply src/Synthetic/Categories/CovariantClosure.lagda.tree]: (Oh and the preview is working again: http://agda-synthetic-categories.toth.co.uk/preview/218/Synthetic.Categories.CovariantClosure/index.xml#id0xb04370 )

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 39]
```diff
@@ -207,39 +247,67 @@ solutions to the right lifting problem.}
...
+        , λ {(_ , _ , refl) → refl})
+  base-change-fst-is-base-change .snd .snd = id-is-equiv
+
+module _
+  {𝓤 𝓥 𝓦 𝓜 𝓝} {A : Type 𝓤} {B : Type 𝓥} (p : A → B)
+  {C : Type 𝓝} (F : C → Type 𝓦) (G : C → Type 𝓜)
+  (let G^F b = F b → G b)
+  where
+
+  module _ (σ : B → C) where
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: can't these module declarations be merged?

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 40]
```diff
@@ -248,35 +316,310 @@ module _
...
+  cov^contrav-is-covariant-alternative Fctr Gcov
+    = is-covariant←has-unique-extensions G^F
+        (λ {(mk-afmap σ h)
+         → is-single←equiv-to-single
+             (transpose-ext-exponentials-at-point-i0 F G σ (h tt) e⁻¹)
+             (unique-extensions←are-orthogonal-fam {P = G}
+               (are-orthogonal-fam←are-orthogonal-fst
+                 (transposed-left-map-is-left-anodyne σ Fctr (fst: G)
+                   (is-covariant↔is-left-fibration G .fst Gcov)))
+               (mk-afmap (σ ∘ fst) (h tt)))})
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree:396]: I wonder if, when aligning `λ {` and `→`, the arrow should be aligned with the `{` since there's an extra inner scope introduced by the braces

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 41]
```diff
@@ -248,35 +316,310 @@ module _
...
-                (transpose-ext-exponentials σ (h tt) e⁻¹)
-                (unique-extensions←are-orthogonal-fam {P = G}
-                  (are-orthogonal-fam←are-orthogonal-fst
-                    (transposed-left-map-is-left-anodyne σ Fctr (fst: G)
-                      (is-covariant↔is-left-fibration G .fst Gcov)))
-                  (mk-afmap (σ ∘ fst) (h tt)))})
+  cov^contrav-is-covariant Fc Gc
+    = is-covariant←has-unique-extensions G^F
+        (λ {(mk-afmap σ h)
+         → is-single←equiv-to-single
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: same question here

File: src/Synthetic/Categories/CovariantClosure.lagda.tree [hunk 42]
```diff
@@ -248,35 +316,310 @@ module _
...
+
+\agda{
+module _ (Δ¹-mono : Δ¹-endos-are-mono) where
+
+  exp-●-is-covariant
+    : ∀ {𝓤 𝓥} {A : Type 𝓥} (F : A → Type 𝓤) (F-cov : is-covariant F)
+      → (f : A → Δ¹)
+      → is-covariant (λ i → (f i ＝ i0) → F i)
+  exp-●-is-covariant F Fc f
+    = cov^contrav-is-covariant ((_＝ i0) ∘ f) F (●-is-contravariant Δ¹-mono f) Fc
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/CovariantClosure.lagda.tree]: you switch between `exp` and `^` here. Please use one consistently. E.g.

```suggestion
  ^●-is-covariant
    : ∀ {𝓤 𝓥} {A : Type 𝓥} (F : A → Type 𝓤) (F-cov : is-covariant F)
      → (f : A → Δ¹)
      → is-covariant (λ i → (f i ＝ i0) → F i)
  ^●-is-covariant F Fc f
    = cov^contrav-is-covariant ((_＝ i0) ∘ f) F (●-is-contravariant Δ¹-mono f) Fc
```

File: src/Synthetic/Categories/WalkingHom.lagda.tree [hunk 43]
```diff
@@ -0,0 +1,91 @@
+\title{The walking morphism}
+\taxon{Module}
+\author{samueltoth}
+\import{stt-macros}
+
+\p{This module is about the properties of the interval (#{Δ¹}) as a category and
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/WalkingHom.lagda.tree]:
```suggestion
\p{This module is about the properties of the interval #{Δ¹} as a category and
```

File: src/Synthetic/Categories/Yoneda.lagda.tree [hunk 44]
```diff
@@ -61,12 +61,21 @@ module _ {𝓤 𝓥} {A : Type 𝓤} {P : A → Type 𝓥} {a : A} where
...
-    , λ a' → ap fst (is-covariant-hom←is-covariant _ Pc (ai a .centre) a' .central
-              (a' ,  tr (λ p → Hom-over p a' a') (sym (ai a .central (idH a)))
-                        (idH _))))
+    , (λ x'
+       → funext→
+           λ a'
+           → tr-cov-hom-unique
+               P Pc
+               (ai a' .centre) (x' a) (x' a')
+               (ap-hom-over x' (ai a' .centre)))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/Yoneda.lagda.tree]: Just for clarity, I would be happy with the following if you prefer

```suggestion
    , (λ x' → funext→ λ a'
       → tr-cov-hom-unique
           P Pc
           (ai a' .centre) (x' a) (x' a')
           (ap-hom-over x' (ai a' .centre)))
```

Comment (fredrik-bakke) [reply src/Synthetic/Categories/Yoneda.lagda.tree]: notice that nothing is trying to align with anything in the prefacing line `λ x' → funext→ λ a'` in the above suggestion

**Review by fredrik-bakke — APPROVED** [review]

File: src/Synthetic/Categories/CovariantClosure.lagda.tree (hunk 40 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/CovariantClosure.lagda.tree:396]: I suppose not actually.

File: src/Synthetic/Categories/Yoneda.lagda.tree (hunk 44 above)
Comment (samtoth) [reply src/Synthetic/Categories/Yoneda.lagda.tree]: Right I see – thanks, the explanation is helpful, and I do prefer your suggestion
